US04931455
Synthesis of dl-5-chloro-6-ethyl-4-(6-ethoxycarbonyloxyhexyl)aminopyrimidine (Compound No. 89)
In 10 ml of dichloromethane were dissolved 0.70 g of dl-5-chloro-6-ethyl-4-(6-hydroxyhexyl)aminopyrimidine and 0.30 g of ethyl chloroformate, and under stirring, 0.40 g of triethylamine and a catalytic amount of 4-dimethylaminopyridine were added to the solution and the mixture was stirred at room temperature for 10 hours. After completion of the reaction, the reaction mixture was extracted with dichloromethane and washed with water. Then, the organic layer was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The resulting oily product was isolated through a column chromatography (Wako gel C-200, trade name, eluent; toluene:ethyl acetate=4:1) to give 0.30 g of the title compound as pale yellow oily product. nD18.7 1.5138.

reactant | dl-5 chloro-6-ethyl-4-(6-hydroxyhexyl)aminopyrimidine | 0.70 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NCCCCCCO)CC
reactant | ethyl chloroformate | 0.30 g | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.40 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | dl-5 chloro-6-ethyl-4-(6-ethoxycarbonyloxyhexyl)aminopyrimidine | 0.30 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NCCCCCCOC(=O)OCC)CC | InChI=1S/C18H34N4O2.C15H24ClN3O3/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-3-12-11-13(19-14(16)18-12)17-9-7-5-6-8-10-22-15(20)21-4-2/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;11H,3-10H2,1-2H3,(H,17,18,19)
